US05380742
4.1 1,3-Dimethyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole.
A solution of 10 g (0.048 mol) of 3,4-bis(chloromethyl)-2,5-dimethylthiophene and 8.22 g of p-toluenesulphonamide in 600 ml of dry dimethylformamide is added dropwise, over 6 h, to a stirred suspension, heated to 100°-110° C., of 180 g of potassium carbonate in 900 ml of dimethylformamide. After the end of the addition, the mixture is maintained at the same temperature for 30 min, and then filtered. The solid is washed with dimethylformamide. The filtrate is concentrated under vacuum, and the residue is treated with 100 ml of ethanol, and filtered. The solid residue remaining is washed with ethanol and dried. 9.39 g of product are obtained. Melting point: 163°-164° C.

reactant | 3,4-bis(chloromethyl)-2,5-dimethylthiophene | 0.048 mol, 10 g | ClCC1=C(SC(=C1CCl)C)C | C8H10Cl2S
reactant | p-toluenesulphonamide | 8.22 g | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
reactant | potassium carbonate | 180 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 900 ml | CN(C=O)C | C3H7NO
product | 1,3-Dimethyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 9.39 g | CC=1SC(=C2C1CN(C2)S(=O)(=O)C2=CC=C(C)C=C2)C | C15H17NO2S2
